US08022206B2
6-Amino-7-[(R)-1-(2,6-dichloro-3-fluorophenyl)ethoxy]furo[3,2-c]pyridine-3-carboxylic acid
A suspension of 6-amino-7-[(R)-1-(2,6-dichloro-3-fluorophenyl)ethoxy]furo[3,2-c]pyridine-3-carboxylic acid methyl ester (140 mg, 0.35 mmol) in 1N aq. HCl (5 mL) was heated at 100° C. for 7 h. The mixture was cooled to rt, and the off-white solid was collected by filtration to give the title compound. LC-MS (ES+): 384.96/386.96 [MH+]. 1H NMR (CD3OD, 400 MHz): δ 1.95 (d, J=6.6 Hz, 3H), 6.70 (q, J=6.6 Hz, 1H), 7.26 (m, 1H), 7.44 (dd, J=9.1, 4.8 Hz, 1H), 8.20 (s, 1H), 8.43 (s, 1H).

reactant | 6-amino-7-[(R)-1-(2,6-dichloro-3-fluorophenyl)ethoxy]furo[3,2-c]pyridine-3-carboxylic acid methyl ester | 0.35 mmol, 140 mg | COC(=O)C1=COC2=C1C=NC(=C2O[C@H](C)C2=C(C(=CC=C2Cl)F)Cl)N | C17H13Cl2FN2O4
solvent | HCl | 1N, 5 mL | Cl | ClH
product | 6-Amino-7-[(R)-1-(2,6-dichloro-3-fluorophenyl)ethoxy]furo[3,2-c]pyridine-3-carboxylic acid | NC1=C(C2=C(C=N1)C(=CO2)C(=O)O)O[C@H](C)C2=C(C(=CC=C2Cl)F)Cl | C16H11Cl2FN2O4
